US05767131
A solution of 5.00 g of trifluoroethanol (50.0 mmol) in 5 mL of dry THF was added dropwise, over a period of 0.5 hr, to a stirred mixture of 4.00 g of 60% dispersion of NaH (100 mmol), 1.61 g of tetrabutylammonium bromide (5.0 mmol), and 830 mg of NaI (5.0 mmol) in 20 mL of dry THF (water bath). The resulting mixture was stirred for 0.5 hrs, cooled to -30° C., and a solution of 8.23 g of ethyl 4-chloro-3-oxobutanoate (50.0 mmol) in 10 mL of dry THF was added dropwise, over a period of 15 min, to the reaction mixture. The reaction mixture was warmed to 0° C. over a period of 2 hrs, and stirred at room temperature for 36 hrs. The reaction mixture was quenched with 5 ml of ethanol, partioned between 100 mL of EtOAc and 100 mL of 10% aqueous HCl solution, separated, extracted with 2×40 mL of EtOAc, the combined organic extracts were dried (Na2SO4), and the solvent was removed in vacuo. The crude product was chromatographed on 400 g of silica packed with 5% EtOAc-hexane. The column was eluted with 5 to 25% EtOAc-hexane (1 L/5% change) to afford 8.75 g (77%) of ethyl 4-(2,2,2-trifluoroethyl)oxy-3-oxobutanoate as a slightly yellow oil. The product was used in the next step after spectral characterization.

reactant | trifluoroethanol | 50.0 mmol, 5.00 g | C(C(F)(F)F)O | C2H3F3O
reactant | NaH | 100 mmol | [H-].[Na+]
reactant | NaI | 5.0 mmol, 830 mg | [Na+].[I-]
reactant | ethyl 4-chloro-3-oxobutanoate | 50.0 mmol, 8.23 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium bromide | 5.0 mmol, 1.61 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethyl 4-(2,2,2-trifluoroethyl)oxy-3-oxobutanoate | 8.75 g, 77% | FC(COCC(CC(=O)OCC)=O)(F)F | C8H11F3O4
